US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine (Compound 129)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3-methoxyphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 89%). 1H NMR (300 MHz, CDCl3): δ 2.49 (s, 3H), 3.19-3.32 (m, 4H), 3.61-3.90 (m, 4H), 3.79 (s, 3H), 4.17 (s, 3H), 6.44-6.58 (m, 4H), 7.00-7.65 (m, 3H), 7.72 (d, J=8.2 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3-methoxyphenyl)piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine | 89% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC | C22H25N5O3
